US08071584B2
6-Fluoro-1H-indole
To a stirred suspension of (1E)-(4-fluoro-2-nitrophenyl)ethanal semicarbazone (27.0 g, 0.110 mol) in THF (750 mL) in a 1 L bomb was added Rh/C (5%; 3.5 g, 0.002 mol Rh) slurried in toluene and Fe(OAc)2 (2.9 g, 0.017 mol). The bomb was charged with H2 to 50 atm and stirred at room temperature for 2 days. The reaction mixture was filtered through celite, washing with MeOH (150 mL). The filtrate was concentrated to give a black oil that was partitioned between DCM (500 mL) and water (300 mL). The layers were separated and the aqueous fraction was extracted with DCM (2×200 mL). The combined organic extracts were washed with brine (200 mL), dried (Na2SO4), and concentrated under reduced pressure. The residue was dissolved in DCM (100 mL) and treated with flash silica to decolourise the solution. The mixture was filtered concentrated under reduced pressure, giving 12.9 g (87%) of the title compound.

reactant | (1E)-(4-fluoro-2-nitrophenyl)ethanal semicarbazone | 0.110 mol, 27.0 g | FC1=CC(=C(C=C1)C/C=N/NC(=O)N)[N+](=O)[O-] | C9H9FN4O3
solvent | THF | 750 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Rh/C | 0.002 mol, 3.5 g | [Rh] | Rh
product | 6-Fluoro-1H-indole | 12.9 g, 87% | FC1=CC=C2C=CNC2=C1 | C8H6FN
